US05919795
6Amino-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
59 g (0.16 mol) of 7-bromo-6-nitro-3,4-dihydro-1H-isoquinolin-2-carboxylic acid tert-butyl ester, 10 g of 5% palladium on calcium carbonate and 49 g of ammonium acetate in 1 liter of acetic acid was hydrogenated on a Parr shaker for 5 hrs. The reaction was filtered through CELITE®concentrated, basified to pH 12 with 4N sodium hydroxide and extracted with methylene chloride. The organic layer was washed with water, brine, dried over magnesium sulfate and concentrated to yield 40 g of an oil.

reactant | 7-bromo-6-nitro-3,4-dihydro-1H-isoquinolin-2-carboxylic acid tert-butyl ester | 0.16 mol, 59 g | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2CC1)[N+](=O)[O-])Br | C14H17BrN2O4
reactant | ammonium acetate | 49 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 1 liter | C(C)(=O)O | C2H4O2
catalyst | palladium on calcium carbonate | 10 g | [Pd] | Pd
product | 6Amino-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 40 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)N | C14H20N2O2
